US07592358B2
25.1a. 5-bromo-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine
The product was prepared analogously to Example 7.1e starting from 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine and 5-bromo-2-ethynylpyridine. Yield: 1.00 g (62% of theoretical); C21H23BrN2O (M=399.324); calc.: molpeak (M+H)+: 399/401 (Br); found: molpeak (M+H)+: 399/401 (Br); HPLC-MS: 4.64 minutes (method A).

reactant | 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine | IC1=CC=C(OCCN2CCC(CC2)C)C=C1 | C14H20INO
reactant | 5-bromo-2-ethynylpyridine | BrC=1C=CC(=NC1)C#C | C7H4BrN
product | 5-bromo-2-{4-[2-(4-methylpiperidin-1-yl)ethoxy]phenylethynyl}pyridine | BrC=1C=CC(=NC1)C#CC1=CC=C(C=C1)OCCN1CCC(CC1)C | C21H23BrN2O
